US07087626B2
7-Bromo-4-(4-chloro-2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline
A solution of 1 M sulfuryl chloride in dichloromethane (20 mL, 20 mmol) is added to a solution of 7-bromo-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline (2.2 g, 5.62 mmol) in dry pyridine (50 mL). The mixture is stirred for 18 h and concentrated in vacuo. The residue is partitioned between chloroform and saturated sodium chloride. The organic layer is dried (sodium sulfate), filtered, concentrated in vacuo, and the residue chromatographed on SiO2 (dichloromethane to 20% methanol in dichloromethane) to yield the title compound as a red solid, 1.8 g (75%).

reactant | sulfuryl chloride | 1 M | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | dichloromethane | 20 mmol, 20 mL | ClCCl | CH2Cl2
reactant | 7-bromo-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline | 5.62 mmol, 2.2 g | BrC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C20H15BrN4
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 7-Bromo-4-(4-chloro-2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline | BrC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2Cl | C20H14BrClN4
